US08957074B2
Following general N—C coupling procedure 1, 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.342 mmol, 1.0 eq) was combined with 3-(6-Amino-pyridine-3-carbonyl)-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester (130 mg, 0.376 mmol, 1.1 eq) which gave 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester (121 mg) in 59% yield. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.51 (s, 10H) 1.56-1.70 (m, 3H) 1.70-1.81 (m, 3H) 1.88 (br. s., 3H) 2.05-2.24 (m, 6H) 2.50-2.67 (m, 2H) 3.18 (s, 7H) 3.55 (br. s., 1H) 3.91 (br. s., 1H) 4.25 (br. s., 1H) 4.78-4.90 (m, 1H) 6.50 (s, 1H) 7.80 (dd, J=8.84, 2.27 Hz, 1H) 8.28 (br. s., 1H) 8.41 (s, 1H) 8.59 (d, J=8.59 Hz, 1H) 8.78 (s, 1H); MS/m/z 603.6 (M+H)+.

reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.342 mmol, 100 mg, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 3-(6-Amino-pyridine-3-carbonyl)-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | 0.376 mmol, 130 mg, 1.1 eq | C(C)(C)(C)OC(=O)N1C2CN(CC1CCC2)C(=O)C=2C=NC(=CC2)N | C18H26N4O3
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | 121 mg, 59% yield | C(C)(C)(C)OC(=O)N1C2CN(CC1CCC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C32H42N8O4
